US09169242B2
N-(5-Bromopyrazin-2-yl)-4-methyl-1,2,3-thiadiazole-5-carboxamide
To a solution of 2-amino-5-bromopyrazine (1.0 g, 5.74 mmol, 1.2 eq) and 4-methyl-1,2,3-thiadiazole-5-carboxylic acid (690 mg, 4.79 mmol, 1.0 eq) in THF (20 mL) at room temperature was sequentially added EDC. HCl (970 mg, 7.18 mmol, 1.5 eq), HOBT (1.37 g, 7.18 mmol, 1.5 eq) and diisopropylethyl amine (1.23 mL, 9.58 mmol, 2.0 eq). The resulting solution was stirred at the same temperature for 24 h. Water (30 mL) was added to the reaction mixture followed by ethyl acetate (30 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with 1N hydrochloric acid (20 mL), saturated sodium bicarbonate solution (20 mL), brine (20 mL) dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum and the crude product was purified by flash column chromatography (silica gel) to afford 321 mg of the desired product as a white solid. 1HNMR (400 MHz, DMSO-d6) δ 11.91 (s, 1H, D2O exchangeable), 9.20 (s, 1H), 8.72 (s, 1H), 2.83 (s, 3H); ESI-MS (m/z) 300, 302 [(MH)+, Br79,81].

reactant | 2-amino-5-bromopyrazine | 5.74 mmol, 1.0 g, 1.2 eq | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 4-methyl-1,2,3-thiadiazole-5-carboxylic acid | 4.79 mmol, 690 mg, 1.0 eq | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | HCl | 7.18 mmol, 970 mg, 1.5 eq | Cl | ClH
reactant | HOBT | 7.18 mmol, 1.37 g, 1.5 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 9.58 mmol, 1.23 mL, 2.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 30 mL | O | H2O
solvent | EDC
product | N-(5-Bromopyrazin-2-yl)-4-methyl-1,2,3-thiadiazole-5-carboxamide | 321 mg | BrC=1N=CC(=NC1)NC(=O)C1=C(N=NS1)C | C8H6BrN5OS
